US07727988B2
Preparation 30:1-[4-(tert-Butyl-dimethyl-silanyloxy)-butyl]-5-(3-methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione (Prep30)
To a solution of 5-(3-methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione (Prep 26, 250 mg, 1.2 mmol) in DMF (10 mL), 60% NaH (58 mg, 1.44 mmol) was added portionwise. The reaction was then heated to 70° C. and this temperature was maintained for 1.5 hour. After cooling to room temperature, (4-iodo-butoxy)-tert-butyl-dimethyl-silane (452 mg, 1.44 mmol) was then added dropwise and the reaction was stirred for 24 hours. Water (30 mL) was added and the product was extracted with Et2O. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with ethyl acetate-petroleum ether (15-85) followed by DCM/MeOH (70:30) to give the title compound as a yellow oil (110 mg, 23% yield).

reactant | 5-(3-methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione | 1.2 mmol, 250 mg | CC1=C(SC=C1)C=1C(NC(NC1)=O)=O | C9H8N2O2S
reactant | NaH | 1.44 mmol, 58 mg | [H-].[Na+]
reactant | (4-iodo-butoxy)-tert-butyl-dimethyl-silane | 1.44 mmol, 452 mg | ICCCCO[Si](C)(C)C(C)(C)C | C10H23IOSi
reactant | Water | 30 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[4-(tert-Butyl-dimethyl-silanyloxy)-butyl]-5-(3-methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione | 110 mg, 23% yield | C(C)(C)(C)[Si](OCCCCN1C(NC(C(=C1)C=1SC=CC1C)=O)=O)(C)C | C19H30N2O3SSi
